US05250698
2-(2-Hydroxy-3-diethylaminomethyl-5-methylphenyl)-2H-benzotriazole
2-(2-Hydroxy-5-methylphenyl)-2H-benzotriazole (74.3 g, 0.33 mol), diethylamine (37.0 g, 0.51 mol) and paraformaldehyde (17.1 g) are dissolved in 85 mL of n-butanol. The mixture is heated with agitation at reflux (95° to 100° C.) for 44 hours. The solvent is removed by vacuum distillation, and the product, a yellow viscous liquid, is obtained in high yield (>99%). This Mannich base is identified by thin layer chromatography using toluene as the mobile phase.

reactant | 2-(2-Hydroxy-5-methylphenyl)-2H-benzotriazole | 0.33 mol, 74.3 g | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
reactant | diethylamine | 0.51 mol, 37.0 g | C(C)NCC | C4H11N
reactant | paraformaldehyde | 17.1 g | C=O | CH2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | n-butanol | 85 mL | C(CCC)O | C4H10O
product | 2-(2-Hydroxy-3-diethylaminomethyl-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1CN(CC)CC)C)N1N=C2C(=N1)C=CC=C2 | C18H22N4O
